US07074794B2
Piperazine (20.0 g) was melted by heating at 140° C. and 2,3-dichloropyridine (3.42 g) was added thereto. The mixture was stirred at 120° C. for 2 hr. Water was added to the reaction mixture and the mixture was extracted with chloroform. The extract was washed with brine, dried and concentrated under reduced pressure to give 1-(3-chloro-2-pyridyl)piperazine (4.68 g) as a dark-brown oil.

reactant | Piperazine | 20.0 g | N1CCNCC1 | C4H10N2
reactant | 2,3-dichloropyridine | 3.42 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
solvent | Water | O | H2O
product | 1-(3-chloro-2-pyridyl)piperazine | 4.68 g | ClC=1C(=NC=CC1)N1CCNCC1 | C9H12ClN3
